US06495551B1
3-Fluoro-4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)nitrobenzene
3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)nitrobenzene (26.7 g) and imidazole (15.3 g) were suspended in dry N,N-dimethylformnamide (190 ml) and stirred under argon on an ice-bath. t-Butyldimethylsilylchloride (25.5 g) was added in one portion, and stirring continued at ice temperature for 30 minutes, then at ambient temperature overnight. Solvent was evaporated in vacuo at 30° C., the residue diluted with water (200 ml) and extracted into ethyl acetate (700 ml). After washing with water (2×300 ml), brine, and drying over magnesium sulfate, solvent was evaporated (finally on high vacuum) to give an oil which solidified (39.2 g). This was used in the next stage with no further purification.

reactant | 3-Fluoro-4-(4-hydroxymethylimidazol-1-yl)nitrobenzene | 26.7 g | FC=1C=C(C=CC1N1C=NC(=C1)CO)[N+](=O)[O-] | C10H8FN3O3
reactant | imidazole | 15.3 g | N1C=NC=C1 | C3H4N2
reactant | t-Butyldimethylsilylchloride | 25.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 3-Fluoro-4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)nitrobenzene | FC=1C=C(C=CC1N1C=NC(=C1)CO[Si](C)(C)C(C)(C)C)[N+](=O)[O-] | C16H22FN3O3Si
